US07902361B2
3-Ethyl-5-[2-(6-methoxy-pyridin-3-ylamino)-pyrimidin-4-yl]-4-methyl-3H-thiazol-2-one (33).
5-(3-Dimethylamino-acryloyl)-3-ethyl-4-methyl-3H-thiazol-2-one (80 mg, 0.333 mmol), N-(6-methoxy-pyridin-3-yl)-guanidine nitrate (76 mg, 0.333 mmol) and K2CO3 (185 mg, 1.332 mmol) were combined in of 2-methoxyethanol (4 mL) and the mixture was heated at 120° C. for 22 h. After cooling, the inorganics were filtered off and the filtrate was concentrated to dryness. The crude product was purified by SiO2 gel chromatography. Pooling of the desired fractions afforded the title compound (45 mg, 39%). 13C-NMR (d6-DMSO) δ: 14.5, 14.7, 37.3, 53.7, 109.0, 110.3, 128.4, 131.82, 132.4, 137.8, 138.4, 152.7, 159.5, 160.3, 164.7, 170.1. Remaining analytical data in Table 2.

reactant | 5-(3-Dimethylamino-acryloyl)-3-ethyl-4-methyl-3H-thiazol-2-one | 0.333 mmol, 80 mg | CN(C=CC(=O)C1=C(N(C(S1)=O)CC)C)C | C11H16N2O2S
reactant | N-(6-methoxy-pyridin-3-yl)-guanidine nitrate | 0.333 mmol, 76 mg | [N+](=O)(O)[O-].COC1=CC=C(C=N1)NC(=N)N
reactant | K2CO3 | 1.332 mmol, 185 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | 2-methoxyethanol | 4 mL | COCCO | C3H8O2
product | 3-Ethyl-5-[2-(6-methoxy-pyridin-3-ylamino)-pyrimidin-4-yl]-4-methyl-3H-thiazol-2-one | 45 mg, 39% | C(C)N1C(SC(=C1C)C1=NC(=NC=C1)NC=1C=NC(=CC1)OC)=O | C16H17N5O2S
